US09422292B2
A disposable tube was charged with 9-fluoro-4,5-dihydro-1H-benzo[b][1,4]diazepine-2(3H)-thione (40 mg, 0.204 mmol) and a stirbar. nBuOH (5 mL) was added, followed by acetohydrazide (30.2 mg, 0.408 mmol), and the solution was stirred at 130° C. overnight. The solution was concentrated with celite and purified by silica gel chromatography (eluting with methylene chloride/methanol/1% ammonium hydroxide) to yield 10-fluoro-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine as an off-white amorphous solid (0.022 g, 0.101 mmol, 50%).

reactant | 9-fluoro-4,5-dihydro-1H-benzo[b][1,4]diazepine-2(3H)-thione | 0.204 mmol, 40 mg | FC1=CC=CC2=C1NC(CCN2)=S | C9H9FN2S
reactant | acetohydrazide | 0.408 mmol, 30.2 mg | C(C)(=O)NN | C2H6N2O
solvent | nBuOH | 5 mL | C(CCC)O | C4H10O
product | 10-fluoro-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.101 mmol, 0.022 g, 50% | FC1=CC=CC=2NCCC=3N(C21)C(=NN3)C | C11H11FN4
